US07407972B2
Step 2: 2-(4-Bromo-2-trifluoromethyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (4 g, 18.6 mmol) was dissolved in 200 mL dry diethyl ether under Ar, cooled in an ice water bath, added dry pyridine (9 mL, 111 mmol) followed by the dropwise addition of oxalyl chloride (4.8 mL, 54 mmol). A precipitate forms immediately. The reaction was stirred vigorously at 0° C. for one hour, then at ambient temperature for one hour. Added 100 mL diethyl ether, filtered off solids washing with diethyl ether. Concentrated the filtrates to an off white oil. Redissolved (2 g, 8.5 mmol) oil in 40 mL dry DCM under Ar, cooled to 0° C., added 2.8 mL pyridine followed by 4-bromo-2-trifluoromethylaniline (2.05 g, 8.6 mmol). The reaction was allowed to warm to ambient temperature, stirred overnight then concentrated. Redissolved in 100 mL EtOAc, washed with 1 N HCl (3×50 mL), brine (100 mL), dried with MgSO4, filtered and concentrated to yield title compound. (1.98 g, 53%) APCI (AP−): 435.0, 437.0 (M−H)−.

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 18.6 mmol, 4 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | pyridine | 111 mmol, 9 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 54 mmol, 4.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-bromo-2-trifluoromethylaniline | 8.6 mmol, 2.05 g | BrC1=CC(=C(N)C=C1)C(F)(F)F | C7H5BrF3N
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(4-Bromo-2-trifluoromethyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)Br)C(F)(F)F)=O | C17H20BrF3N2O3
